US07220856B2
Preparation of 2-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cycloheptanecarboxylic Acid, Methyl Ester
As described for 78, 2-methoxycarbonyl cycloheptyl amine, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product. LC-MS: 460 (M++1). 1H NMR (CDCl3) δ 7.72 (d, 1H), 7.60 (s, 1H), 7.18 (d, 1H), 6.15 (s, 1H), 5.50 (d, 1H), 4.70 (s, 2H), 4.15 (m, 1H), 3.70 (s, 3H), 3.60 (m, 4H), 3.10 (m, 4H), 2.95 (m, 1H), 2.00 (m, 1H), 1.85 (m, 3H), 1.65 (m, 5H), 1.45 (m, 1H).

reactant | 2-methoxycarbonyl cycloheptyl amine | COC(=O)C1C(CCCCC1)N | C9H17NO2
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 2-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cycloheptanecarboxylic Acid, Methyl Ester | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1C(CCCCC1)C(=O)OC)Cl | C23H30ClN5O3
